US07476399B2
N-(1-Benzyl-2-hydroxy-ethyl)-3-(4-methoxy-phenyl)-acrylamide
Prepared in a similar manner as described in example 4 from 3-(4-methoxy-phenyl)-acrylic acid and D-phenylalaninol. MS (M+H, 312.3).

reactant | 3-(4-methoxy-phenyl)-acrylic acid | COC1=CC=C(C=C1)C=CC(=O)O | C10H10O3
reactant | D-phenylalaninol | N[C@H](CC1=CC=CC=C1)CO | C9H13NO
product | N-(1-Benzyl-2-hydroxy-ethyl)-3-(4-methoxy-phenyl)-acrylamide | C(C1=CC=CC=C1)C(CO)NC(C=CC1=CC=C(C=C1)OC)=O | C19H21NO3
